US07528129B2
22a) (R)-2-(4-benzyloxy-3,5-dimethyl-phenyl)-1-methoxycarbonyl-ethyl 4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 21a from 1.41 g (3.63 mmol) methyl(R)-3-(4-benzyloxy-3,5-dimethyl-phenyl)-2-hydroxy-propionate, 0.75 g (3.63 mmol) 4-nitrophenyl chloroformate and 1.00 g (3.63 mmol) 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one.

reactant | methyl(R)-3-(4-benzyloxy-3,5-dimethyl-phenyl)-2-hydroxy-propionate | 3.63 mmol, 1.41 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)C[C@H](C(=O)OC)O)C | C19H22O4
reactant | 4-nitrophenyl chloroformate | 3.63 mmol, 0.75 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 3.63 mmol, 1.00 g | COC=1C=CC2=C(CCN(C(N2)=O)C2CCNCC2)C1 | C15H21N3O2
product | (R)-2-(4-benzyloxy-3,5-dimethyl-phenyl)-1-methoxycarbonyl-ethyl 4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | COC=1C=CC2=C(CCN(C(N2)=O)C2CCN(CC2)C(=O)O[C@H](CC2=CC(=C(C(=C2)C)OCC2=CC=CC=C2)C)C(=O)OC)C1 | C35H41N3O7
